US07232834B2
9 cm3 of a 4N solution of hydrochloric acid in ethyl acetate and 10 cm3 of MeOH are added, at a temperature in the region of 20° C., to 4 g (7.23 mmol) of methyl (3R,4R)-1-tert-butyloxycarbonyl-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)-3-oxopropyl]piperidine-3-carboxylate in solution in 20 cm3 of ethyl acetate. After stirring for 4 hours at a temperature in the region of 20° C., the reaction mixture is diluted with 25 cm3 of ethyl acetate and a 5N aqueous sodium hydroxide solution is then added in order to adjust the pH of the aqueous phase to a value of between 8 and 8.5. The organic phase is separated after settling out and the aqueous phase is then extracted with 3 times 40 cm3 of ethyl acetate. The organic phases are pooled, washed with 2 times 50 cm3 of a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and concentrated to dryness under reduced pressure (2.7 kPa) to give 2.33 g of methyl (3R,4R)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)-3-oxopropyl]-piperidine-3-carboxylate in the form of an orange oil.

reactant | hydrochloric acid | Cl | ClH
reactant | methyl (3R,4R)-1-tert-butyloxycarbonyl-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)-3-oxopropyl]piperidine-3-carboxylate | 7.23 mmol, 4 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)CCC(=O)C1=C(C=NC2=CC=C(C=C12)OC)F)C(=O)OC | C25H31FN2O6
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 10 cm3 | CO | CH4O
solvent | ethyl acetate | 20 cm3 | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 cm3 | C(C)(=O)OCC | C4H8O2
product | methyl (3R,4R)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)-3-oxopropyl]-piperidine-3-carboxylate | 2.33 g | FC=1C=NC2=CC=C(C=C2C1C(CC[C@H]1[C@H](CNCC1)C(=O)OC)=O)OC | C20H23FN2O4
